US07271262B2
247B. (3-Mercapto-phenyl)-carbamic acid tert-butyl ester
To a round-bottom flask with acetone (8 mL) was added 3-Amino-benzenethiol (501 mg, 4 mmole) and di-tert-butyl dicarbonate (1.75 gram, 8 mmole) and 3 mL of saturated sodium bicarbonate. The resulting solution was stirred at room temperature overnight, and then extracted with EtOAc (150 mL) and 1 N HCl (100 mL). The organic layer was washed with water, brine, dried over sodium sulfate and concentrated. Purification through flash column (EtOAc/Hexanes:1/3) afforded the product as a clean colorless oil (730 mg, 81%). MS: 226.1 (MH+); HPLC Rf: 6.152 min.; HPLC purity: 99%.

reactant | 3-Amino-benzenethiol | 4 mmole, 501 mg | NC=1C=C(C=CC1)S | C6H7NS
reactant | di-tert-butyl dicarbonate | 8 mmole, 1.75 gram | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | 3 mL | C([O-])(O)=O.[Na+]
solvent | acetone | 8 mL | CC(=O)C | C3H6O
product | (3-Mercapto-phenyl)-carbamic acid tert-butyl ester | 730 mg, 81% | C(C)(C)(C)OC(NC1=CC(=CC=C1)S)=O | C11H15NO2S
